US05017563
Castanospermine (350 mg) was added to 5 ml of pyridine and stirred under nitrogen at room temperature. Butyric anhydride (0.97 g) was added dropwise and the mixture was kept at room temperature for 24 hours. The reaction mixture was evaporated to dryness in vacuo to leave a syrupy residue. The residue was dissolved in ether and a colorless solid precipitated when pentane was added. Recrystallization of the solid from a mixture of ether and petroleum ether gave colorless needles of [1S-(1α, 6β, 7α, 8β, 8αβ) ]-octahydro-1,6,7,8-indolizinetetrol 6,8-dibutanoate melting at about 110-111° C. (22 mg, 4% yield). NMR (CDCl3) δ 3.7 (t, 1H, C7 --H), 4.1 (m, 1H, C1 --H), 4.85 (t, 1H, C8 --H), 5.0 (m, 1H, C6 --H. MS (CI--CH4) 330 (MH+) 312 (MH+ --H2O).

reactant | Castanospermine | 350 mg | C1CN2C[C@@H]([C@H]([C@@H]([C@H]2[C@H]1O)O)O)O | C8H15NO4
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | Butyric anhydride | 0.97 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | ether | CCOCC | C4H10O
product | octahydro-1,6,7,8-indolizinetetrol 6,8-dibutanoate | 22 mg, 4% yield | C(CCC)(=O)OC1CN2CCC(C2C(C1O)OC(CCC)=O)O | C16H27NO6
